US05994378
A solution of methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-2-carboxylate (0.86 g) and sodium hydroxide (0.77 g) in a mixture of water (10 ml) and ethanol (20 ml) was stirred under reflux for 2 hours. After removal of solvents, the residue was dissolved into water and the solution was acidified with diluted hydrochloric acid to pH 3. The resulting precipitates were collected by filtration and dried in vacuo to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-2-carboxylic acid (0.80 g).

reactant | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-2-carboxylate | 0.86 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C(=CC1=CC=CC=C21)C(=O)OC | C26H24N2O3S
reactant | sodium hydroxide | 0.77 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-2-carboxylic acid | 0.80 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C(=CC1=CC=CC=C21)C(=O)O | C25H22N2O3S
